US07592373B2
3.32.d. (3-chlorobiphenyl-4-yl)propynoic acid
13.8 mL (22.1 mmol) of butyllithium solution (1.6M in hexane) are added dropwise to a solution of 4.7 g (22.1 mmol) of 3-chloro-4-ethynylbiphenyl in 100 mL of absolute THF at −10° C. to −20° C. and after five minutes cooled to −60° C. At this temperature dry ice is added batchwise to the reaction mixture and it is slowly allowed to come up to ambient temperature. Then the solvent is evaporated down and the residue is extracted between ethyl acetate and 1M hydrochloric acid. The organic phase is dried, the desiccant filtered off, and the solvent concentrated by evaporation. The residue is stirred with petroleum ether, suction filtered, and dried at 80° C. in the circulating air dryer. Yield: 4.8 g (85% of theory); C15H9ClO2 (M=256.68); calc.: molecular ion peak (M+H)+: 257/259 (Cl); found: molecular ion peak (M+H)+: 257/259 (Cl); Rf value: 0.2 (silica gel, dichloromethane/methanol/glacial acetic acid (90:10:0.1)).

reactant | butyllithium | 22.1 mmol, 1.6M, 13.8 mL | C(CCC)[Li]
reactant | 3-chloro-4-ethynylbiphenyl | 22.1 mmol, 4.7 g | ClC=1C=C(C=CC1C#C)C1=CC=CC=C1 | C14H9Cl
reactant | dry ice | C(=O)=O | CO2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (3-chlorobiphenyl-4-yl)propynoic acid | ClC=1C=C(C=CC1C#CC(=O)O)C1=CC=CC=C1 | C15H9ClO2
